US04523945
2-Amino-4-chloro-6-{[(2,2-dichloro-cyclopropyl)-methyl]amino}pyrimidine
A mixture consisting of 38.8 gm (0.24 mol) of 2-amino-4,6-dichloro-pyrimidine, 300 ml of ethanol, 33.1 gm (0.24 mol) of (2,2-dichloro-cyclopropylmethyl)amine and 36 ml (0.26 mol) of triethylamine was refluxed for six hours while stirring. Thereafter, the solvent was distilled off, the oily residue was stirred with about 300 ml of acetone, and the precipitated triethylamine hydrochloride was suction-filtered off. The acetone was distilled out of the filtrate in vacuo, and the residue was admixed with 500 ml of diisopropyl ether and 100 ml of water. The organic phase was separated and again washed with water, dried with magnesium sulfate, de-colorized and evaporated. The residue was triturated with gasoline (b.p. 40°-60° C.) to yield the title compound as colorless crystals.

reactant | 2-amino-4,6-dichloro-pyrimidine | 0.24 mol, 38.8 gm | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | (2,2-dichloro-cyclopropylmethyl)amine | 0.24 mol, 33.1 gm | ClC1(C(C1)CN)Cl | C4H7Cl2N
reactant | triethylamine | 0.26 mol, 36 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-Amino-4-chloro-6-{[(2,2-dichloro-cyclopropyl)-methyl]amino}pyrimidine | NC1=NC(=CC(=N1)Cl)NCC1C(C1)(Cl)Cl | C8H9Cl3N4
